US06486316B1
Part A: Preparation of 2-chloro-4,6-bisphenyl-1,3,5-triazine Using Concentrated HCl as a Reaction Promoter
To a stirring mixture of 1 eq of cyanuric chloride and 3 eq of aluminum chloride in o-dichlorobenzene at ice bath temperature was added concentrated HCl (13 wt % based on cyanuric chloride). After 10 minutes, 1.95 eq of benzene was added and the reaction mixture stirred at ice bath temperature for 10 minutes. The cooling bath was removed, the reaction was allowed to warm to room temperature, and stirred. After 26 h at room temperature, an HPLC analysis indicated about 86% cyanuric chloride conversion to 2-chloro-2,6-bisphenyl-1,3,5-triazine. The stirring was continued for 24 h at room temperature. The HPLC analysis showed the cyanuric chloride conversion to 92% with >96% being 2-chloro-4,6-bisphenyl-1,3,5-triazine and less than 2% of 2,4,6-trisphenyl-1,3,5-triazine. The result was confirmed by LCMS.

reactant | cyanuric chloride | 1 eq | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | aluminum chloride | 3 eq | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | Cl | ClH
reactant | benzene | 1.95 eq | C1=CC=CC=C1 | C6H6
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-chloro-4,6-bisphenyl-1,3,5-triazine | ClC1=NC(=NC(=N1)C1=CC=CC=C1)C1=CC=CC=C1 | C15H10ClN3
